US04264605
1-(2,6-DIMETHOXYBENZOYL)-3-(6-(4-CHLOROPHENYLTHIO)-3-PYRIDINYL)UREA
2,6-Dimethoxybenzoyl isocyanate (2.07 grams; 0.01 mole) and 6-(4-chlorophenylthio)-3-aminopyridine (2.37 grams; 0.01 mole) were mixed in 100 ml. of ethyl acetate and stirred at room temperature for 3 hours. Solvent was removed in vacuo and the product crystallized from hexanes-ethyl acetate, yield 0.6 gram, m.p. 172°-174° C.

reactant | 2,6-Dimethoxybenzoyl isocyanate | 0.01 mole, 2.07 grams | COC1=C(C(=O)N=C=O)C(=CC=C1)OC | C10H9NO4
reactant | 6-(4-chlorophenylthio)-3-aminopyridine | 0.01 mole, 2.37 grams | ClC1=CC=C(C=C1)SC1=CC=C(C=N1)N | C11H9ClN2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,6-DIMETHOXYBENZOYL)-3-(6-(4-CHLOROPHENYLTHIO)-3-PYRIDINYL)UREA | COC1=C(C(=O)NC(=O)NC=2C=NC(=CC2)SC2=CC=C(C=C2)Cl)C(=CC=C1)OC | C21H18ClN3O4S
